US07842696B2
DIPEA (170 mg, 0.22 mL, 1.31 mmol) was added to a stirred solution of 2-phenyl-thiazole-5-carboxylic acid (90 mg, 0.43 mmol) in DMF (2 mL). HOBT (71 mg, 0.52 mmol) and EDCI (100 mg, 0.52 mmol) were then added at room temperature. After 2 minutes 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (185 mg, 0.52 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and then extrated with ethyl acetate. The organic layer was washed with brine and dried over Na2SO4 and concentrated under reduced pressure to afford 77.1 mg (35%) of 2-phenyl-thiazole-5-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 95.1%. 1H NMR (DMSO-d6): δ 9.0-8.9 (m, 1H), 8.54-8.5 (s, 1H), 8.0 (m, 2H), 7.9-7.64 (m, 3H), 7.6-7.5 (m, 4H), 4.24-4.1 (m, 2H), 3.8-3.6 (m, 4H), 3.5-3.4 (m, 2H), 3.2-3.0 (m, 2H).

reactant | DIPEA | 1.31 mmol, 0.22 mL, 170 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-phenyl-thiazole-5-carboxylic acid | 0.43 mmol, 90 mg | C1(=CC=CC=C1)C=1SC(=CN1)C(=O)O | C10H7NO2S
reactant | HOBT | 0.52 mmol, 71 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.52 mmol, 100 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | 0.52 mmol, 185 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-phenyl-thiazole-5-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 77.1 mg, 35% | O=C(CNC(=O)C1=CN=C(S1)C1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H21F3N4O3S
